US04761409
(5-Methyl-2-oxo-1,3-dioxolen-4-yl)methyl 7-formamido-3-(1,2,4-thiadiazol-4-yl)thiomethyl-3-cephem-4-carboxylate
A suspension of 7-formamido-3-(1,2,4-thiadiazol-4-yl)thiomethyl-3-cephem-4-carboxylic acid (1.07 g, 3 mmole), KHCO3 (1.0 g, 10 mmole) and propylene oxide (1 ml) in DMF (5 ml) was cooled to 5° C. and treated with 4-bromo-methyl-5-methyl-1,3-dioxolene-2-one (0.87 g, 4.5 mmole). After stirring at 5° C. for 5 hr, the reaction mixture was poured into a mixture of aq HCl (pH 3) (70 ml) and EtOAc (250 ml). The EtOAc layer was separated and washed successively with aq HCl (pH 3) (70 ml×2), 10% K2HPO4 buffer (pH 7) (70 ml×2) and saturated aq NaCl (50 ml). The EtOAc solution was dried (MgSO4) and concentrated in vacuo. The residue was triturated with ether (300 ml) and the resulting precipitate was filtered to give the title compound ( 0.45 g).

reactant | 7-formamido-3-(1,2,4-thiadiazol-4-yl)thiomethyl-3-cephem-4-carboxylic acid | 3 mmole, 1.07 g | C(=O)NC1[C@@H]2N(C(=C(CS2)CSN2C=NSC2)C(=O)O)C1=O | C11H12N4O4S3
reactant | propylene oxide | 1 ml | C1C(C)O1 | C3H6O
reactant | 4-bromo-methyl-5-methyl-1,3-dioxolene-2-one | 4.5 mmole, 0.87 g | BrC=1OC(OC1CC)=O | C5H5BrO3
reactant | HCl | 70 ml, pH 3 | Cl | ClH
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 250 ml | CCOC(=O)C | C4H8O2
product | (5-Methyl-2-oxo-1,3-dioxolen-4-yl)methyl 7-formamido-3-(1,2,4-thiadiazol-4-yl)thiomethyl-3-cephem-4-carboxylate | 0.45 g | C(=O)NC1[C@@H]2N(C(=C(CS2)CSN2C=NSC2)C(=O)OCC=2OC(OC2C)=O)C1=O | C16H16N4O7S3
